US03948939
The acetaldehyde 1-benzoyl-1-(2-bromophenyl) hydrazone was prepared as follows: A solution of 11.2 g. of 2-bromophenyl hydrazine in ether was treated with 7 ml. of acetaldehyde and allowed to stand for 1 hour with occasional swirling. The ether solution was washed with water, a small amount of dilute potassium bicarbonate solution, and saturated sodium chloride solution, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was taken up in 25 ml. dry dimethylformamide and the resulting solution was added dropwise, with stirring and water-bath cooling, to a mixture of 1.56 g. of sodium hydride in 25 ml. dry dimethylformamide and stirring was continued for 1 hour. To this solution under nitrogen was added dropwise with stirring a solution of 7 ml. of benzoyl chloride in 10 ml. of dimethylformamide and stirring was continued for 4 hours. The mixture was diluted with ether and treated with water containing sufficient glacial acetic acid to neutralize excess alkali. The ether extract was washed with water, dilute potassium carbonate solution, water, and saturated sodium chloride solution, dried over magnesium sulfate and evaporated to dryness under reduced pressure to give acetaldehyde 1-benzoyl-1-(2-bromophenyl) hydrazone which was used as such in the above reaction.

reactant | 2-bromophenyl hydrazine | BrC1=C(C=CC=C1)NN | C6H7BrN2
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | ether | CCOCC | C4H10O
product | acetaldehyde 1-benzoyl-1-(2-bromophenyl) hydrazone | C(C1=CC=CC=C1)(=O)N(N=CC)C1=C(C=CC=C1)Br | C15H13BrN2O
